US07932271B2
t-Butyl N′-[5-chloro-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]hydrazine carboxylate
To a methylene chloride (5 ml) solution of [5-chloro-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]hydrazine (166 mg, 0.374 mmol) was added di-t-butyl dicarbonate (122 mg, 0.560 mmol). The resulting mixture was stirred at room temperature for 16 hours. The reaction mixture was concentrated under reduced pressure. The residue thus obtained was subjected to flash silica gel column chromatography. The fraction obtained from the hexane:ethyl acetate (=3:1) eluate was concentrated under reduced pressure to give the title compound (166 mg, 0.305 mmol, 82%) as a white solid.

reactant | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
reactant | [5-chloro-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]hydrazine | 0.374 mmol, 166 mg | ClC=1C(=CC(=NC1)NN)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C18H13Cl2F2N3O2S
reactant | di-t-butyl dicarbonate | 0.560 mmol, 122 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | hexane | CCCCCC | C6H14
product | t-Butyl N′-[5-chloro-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]hydrazine carboxylate | 0.305 mmol, 166 mg, 82% | ClC=1C(=CC(=NC1)NNC(=O)OC(C)(C)C)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C23H21Cl2F2N3O4S
